US05780505
3-tert-Butylamino-4-(2-chloro-6-methyl-benzylamino)-cyclobut-3-ene-1,2-dion
A mixture of 3,4-diethoxy-3-cyclobutene-1,2-dione (5 g, 29 mmol) and 2-chloro-6-methylbenzylamine (4.57 g, 29 mmol) in absolute ethanol (147 mL) was allowed to stand at room temperature for 4 days. The reaction mixture was concentrated under reduced pressure and suspended in dichloromethane (200 mL). The slurry was stirred at room temperature for 18 hours, filtered, rinsed with dichloromethane, and concentrated under reduced pressure to give 6.42 g (78%) of a solid. A portion of this solid, 3-(2-chloro-6-methyl-benzylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione, (0.4 g, 1.43 mmol) was placed in t-butylamine (4 mL) and dichloromethane (4 mL) and allowed to stand at room temperature for 6 days. The solid was filtered, rinsed several times with ethyl acetate, and dried. This gave 0.31 g (71%) of the title compound as a white solid: mp 254°-257° C.; 1H NMR (DMSO-d6) δ7.46 (br s, 1H), 7.42 (br t, 1H), 7.38-7.22 (m, 3H), 4.93 (d, 2H), 2.40 (s, 3H), 1.34 (s, 9H) ppm. IR (KBr): 3200, 2960, 1790, 1650 cm-1 ; MS (m/z) 306/308 (M+).

reactant | 3-(2-chloro-6-methyl-benzylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione | 1.43 mmol, 0.4 g | ClC1=C(CNC=2C(C(C2OCC)=O)=O)C(=CC=C1)C | C14H14ClNO3
reactant | dichloromethane | 4 mL | ClCCl | CH2Cl2
reactant | t-butylamine | 4 mL | C(C)(C)(C)N | C4H11N
product | 3-tert-Butylamino-4-(2-chloro-6-methyl-benzylamino)-cyclobut-3-ene-1,2-dion | C(C)(C)(C)NC=1C(C(C1NCC1=C(C=CC=C1C)Cl)=O)=O | C16H19ClN2O2
